US06743798B1
2-(5-Methyl-1,3,4-thiadiazol-2-yl)-malononitrile
Under argon, 400 mg (10.0 mmol) of sodium hydride (60% suspension in oil) are suspended at room temperature in 40 ml of THF. A solution of 661 mg (10.0 mmol) of malonodinitrile in 10 ml of THF is added dropwise, and the reaction mixture is stirred for 15 min. A solution of 891 mg (5.0 mmol) of 2-methyl-5-methylsulphonyl-1,3,4-thiadiazole in 10 ml of THF is added dropwise. The reaction mixture is heated to 50° C. and stirred overnight, cooled and concentrated using a rotary evaporator. The residue is dissolved in water and adjusted to pH=3 using HCl. A brown solid precipitates out, and this solid is filtered off and dried under reduced pressure.

reactant | sodium hydride | 10.0 mmol, 400 mg | [H-].[Na+]
reactant | malonodinitrile | 10.0 mmol, 661 mg | C(C#N)C#N | C3H2N2
reactant | 2-methyl-5-methylsulphonyl-1,3,4-thiadiazole | 5.0 mmol, 891 mg | CC=1SC(=NN1)S(=O)(=O)C | C4H6N2O2S2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(5-Methyl-1,3,4-thiadiazol-2-yl)-malononitrile | CC1=NN=C(S1)C(C#N)C#N | C6H4N4S
